US06900354B2
3-[4-(3,4-Difluoro-benzyloxy)-phenyl]-propionamide
A mixture of 106 mg (0.64 mmol) 3-(4-hydroxy-phenyl)-propionamide, 178 mg (1.29 mmol) potassium carbonate and 140 mg (0.68 mmol) 3,4-difluorobenzyl bromide in 5 ml ethyl methyl ketone is hold at 50° C. for 24 hours. The reaction mixture is cooled, diluted with water and extracted with diethyl ether. Crystallization from n-hexane yields 77 mg (41%) of a colorless solid. MS: m/e=291.3 (M+).

reactant | 3-(4-hydroxy-phenyl)-propionamide | 0.64 mmol, 106 mg | OC1=CC=C(C=C1)CCC(=O)N | C9H11NO2
reactant | potassium carbonate | 1.29 mmol, 178 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-difluorobenzyl bromide | 0.68 mmol, 140 mg | FC=1C=C(CBr)C=CC1F | C7H5BrF2
solvent | ethyl methyl ketone | 5 ml | CC(=O)CC | C4H8O
solvent | water | O | H2O
product | 3-[4-(3,4-Difluoro-benzyloxy)-phenyl]-propionamide | 77 mg, 41% | FC=1C=C(COC2=CC=C(C=C2)CCC(=O)N)C=CC1F | C16H15F2NO2
